US05643925
N-(4-Benzyloxy-3-nitrocinnamoyl)piperidine
Following a procedure similar to that described in Example 1, but using 1 g of 4-benzyloxy-3-nitrocinnamic acid and 400 mg of piperidine, 0.8 g of the title compound were obtained, melting at 155°-156° C.

reactant | 4-benzyloxy-3-nitrocinnamic acid | 1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=CC(=O)O)C=C1)[N+](=O)[O-] | C16H13NO5
reactant | piperidine | 400 mg | N1CCCCC1 | C5H11N
product | N-(4-Benzyloxy-3-nitrocinnamoyl)piperidine | 0.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=CC(=O)N2CCCCC2)C=C1)[N+](=O)[O-] | C21H22N2O4
